US06756378B2
To a stirred solution of 1-(tert-butoxycarbonyl)-4-(2,4-difluorophenoxy)pyrrolidine-2-carboxylic acid (2.55 g, 7.43 mmol) in THF (50 ml) was added BH3.DMS (452 ul, 7.43 mmol). The mixture was heated at reflux overnight. After cooling to room temperature, the mixture was concntrated in vacuo and quenced by the addition of H2O (100 ml). The mixture was extracted with CHCl3 (2×200 ml), dried over MgSO4, and evaporated. The residue was chromatographed on silica gel with CHCl3-EtOAc (4:1) as eluent to give 1-(tert-butoxycarbonyl)-4-(2,4-difluorophenoxy)-2-pyrrolidinylmethanol (1.76 g, 72%) as a colorless oil. 1H-NMR (CDCl3) δ1.45 (s, 9 H), 2.28-2.36 (m, 2 H), 3.58-4.99 (series of m, 8 H), 6.74-6.90 (m, 3 H).

reactant | 1-(tert-butoxycarbonyl)-4-(2,4-difluorophenoxy)pyrrolidine-2-carboxylic acid | 7.43 mmol, 2.55 g | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=C(C=C(C=C1)F)F)C(=O)O | C16H19F2NO5
reactant | DMS | 7.43 mmol, 452 ul | CSC | C2H6S
reactant | H2O | 100 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-4-(2,4-difluorophenoxy)-2-pyrrolidinylmethanol | 1.76 g, 72% | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=C(C=C(C=C1)F)F)CO | C16H21F2NO4
